US04689330
A mixture of 3.8 parts of 2-(bromomethyl)-2,3-dihydro-1,4-benzodioxin, 6.3 parts of N-(4-piperidinylmethyl)-2-benzothiazolamine dihydrobromide, 10 parts of sodium carbonate, 0.1 parts of sodium iodide and 68 parts of N,N-dimethylformamide was stirred for 48 hours at 70° C. The reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The oily residue was crystallized from acetonitrile, yielding 2.8 parts of N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-2-benzothiazolamine; mp. 139.9° C. (compound 1).

reactant | 2-(bromomethyl)-2,3-dihydro-1,4-benzodioxin | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | N-(4-piperidinylmethyl)-2-benzothiazolamine dihydrobromide | Br.Br.N1CCC(CC1)CNC=1SC2=C(N1)C=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-[[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]methyl]-2-benzothiazolamine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)CNC=2SC1=C(N2)C=CC=C1 | C22H25N3O2S
